US08609698B2
5-(tert-Butoxymethyl)-2-chloropyridine
7.2 g (50.0 mmol) of (6-chloropyridin-3-yl)methanol are initially charged in 50 ml of dichloromethane. 25.1 g (115.0 mmol) of di-tert-butyl dicarbonate and 1.1 g (5.0 mmol) of magnesium perchlorate are added, and the mixture is stirred at 40° C. for 24 h. The mixture is then cooled to RT, a further 12.5 g (57.3 mmol) of di-tert-butyl dicarbonate and 600 mg (2.7 mmol) of magnesium perchlorate are added, and the mixture is stirred under reflux for another 2.5 h. Another 12.5 g (57.3 mmol) of di-tert-butyl dicarbonate are added, and the mixture is stirred under reflux for another 3 h. The mixture is then diluted with dichloromethane and washed once with water and once with saturated sodium chloride solution. The mixture is dried over magnesium sulfate and concentrated, and the residue is purified by column chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 85:15).

reactant | (6-chloropyridin-3-yl)methanol | 50.0 mmol, 7.2 g | ClC1=CC=C(C=N1)CO | C6H6ClNO
reactant | di-tert-butyl dicarbonate | 115.0 mmol, 25.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | magnesium perchlorate | 5.0 mmol, 1.1 g | Cl(=O)(=O)(=O)[O-].[Mg+2].Cl(=O)(=O)(=O)[O-]
reactant | di-tert-butyl dicarbonate | 57.3 mmol, 12.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | magnesium perchlorate | 2.7 mmol, 600 mg | Cl(=O)(=O)(=O)[O-].[Mg+2].Cl(=O)(=O)(=O)[O-]
reactant | di-tert-butyl dicarbonate | 57.3 mmol, 12.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-(tert-Butoxymethyl)-2-chloropyridine | C(C)(C)(C)OCC=1C=CC(=NC1)Cl | C10H14ClNO
